.subckt PM_OAI311xp33_ASAP7_75t_R%A2 vss 4 5 9 3
c1 1 vss 0.00451289f $X=0.135 $Y=0.135
c2 3 vss 0.119281f $X=0.135 $Y=0.0245
c3 4 vss 0.0112589f $X=0.134 $Y=0.136
r1 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.135 $Y=0.135
+ $X2=0.135 $Y2=0.135
r2 4 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.134 $Y=0.136 $X2=0.135 $Y2=0.135
r3 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.2025 $X2=0.135 $Y2=0.154
r4 7 8 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.135 $X2=0.135 $Y2=0.154
r5 6 7 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.116 $X2=0.135 $Y2=0.135
r6 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.0675 $X2=0.135 $Y2=0.116
r7 5 3 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.0675 $X2=0.135 $Y2=0.0245
.ends

.subckt PM_OAI311xp33_ASAP7_75t_R%A1 vss 11 5 9 4 3
c1 1 vss 0.0054036f $X=0.189 $Y=0.135
c2 3 vss 0.0828086f $X=0.189 $Y=0.0245
c3 4 vss 0.0181536f $X=0.189 $Y=0.098
r1 11 4 8.62802 $w=1.3e-08 $l=3.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.196
+ $Y=0.136 $X2=0.189 $Y2=0.098
r2 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.189 $Y=0.135
+ $X2=0.189 $Y2=0.135
r3 11 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.196 $Y=0.136 $X2=0.189 $Y2=0.135
r4 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.2025 $X2=0.189 $Y2=0.154
r5 7 8 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.135 $X2=0.189 $Y2=0.154
r6 6 7 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.116 $X2=0.189 $Y2=0.135
r7 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.0675 $X2=0.189 $Y2=0.116
r8 5 3 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.0675 $X2=0.189 $Y2=0.0245
.ends

.subckt PM_OAI311xp33_ASAP7_75t_R%C1 vss 13 5 11 4 3 1
c1 1 vss 0.00209746f $X=0.297 $Y=0.135
c2 3 vss 0.0612681f $X=0.297 $Y=0.0245
c3 4 vss 0.01154f $X=0.297 $Y=0.098
r1 13 4 8.62802 $w=1.3e-08 $l=3.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.134 $X2=0.297 $Y2=0.098
r2 1 8 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.297 $Y=0.135
+ $X2=0.297 $Y2=0.135
r3 13 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.297 $Y=0.134 $X2=0.297 $Y2=0.135
r4 11 10 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.216 $X2=0.297 $Y2=0.173
r5 9 10 7.31297 $w=2.1e-08 $l=2.15e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.1515 $X2=0.297 $Y2=0.173
r6 8 9 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.135 $X2=0.297 $Y2=0.1515
r7 7 8 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.1185 $X2=0.297 $Y2=0.135
r8 6 7 2.7211 $w=2.1e-08 $l=8e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.1105 $X2=0.297 $Y2=0.1185
r9 5 6 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.0675 $X2=0.297 $Y2=0.1105
r10 5 3 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.0675 $X2=0.297 $Y2=0.0245
.ends

.subckt PM_OAI311xp33_ASAP7_75t_R%Y vss 32 20 39 41 44 13 1 11 17 10 2 14 18
c1 1 vss 0.0074619f $X=0.216 $Y=0.216
c2 2 vss 0.00659601f $X=0.324 $Y=0.0675
c3 3 vss 0.00682578f $X=0.324 $Y=0.216
c4 10 vss 0.0353664f $X=0.3095 $Y=0.0675
c5 11 vss 0.00286909f $X=0.2015 $Y=0.1975
c6 12 vss 4.57959e-20 $X=0.2015 $Y=0.1755
c7 13 vss 0.000338176f $X=0.2015 $Y=0.2245
c8 14 vss 0.0268617f $X=0.3095 $Y=0.216
c9 15 vss 0.00564821f $X=0.3125 $Y=0.036
c10 16 vss 0.00257142f $X=0.351 $Y=0.234
c11 17 vss 0.0125487f $X=0.3125 $Y=0.234
c12 18 vss 0.00414059f $X=0.351 $Y=0.0575
r1 13 1 0.391892 $w=3.7e-08 $l=1.45e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.2015 $Y=0.2245 $X2=0.216 $Y2=0.216
r2 12 1 0.462963 $w=2.7e-08 $l=1.25e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.2015 $Y=0.1755 $X2=0.216 $Y2=0.216
r3 44 43 0.147059 $w=1.7e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.2333 $Y=0.216 $X2=0.2305 $Y2=0.1975
r4 42 43 0.264706 $w=1.7e-08 $l=4.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.226 $Y=0.1975 $X2=0.2305 $Y2=0.1975
r5 1 42 0.705882 $w=1.7e-08 $l=1.2e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.216 $Y=0.216 $X2=0.226 $Y2=0.1975
r6 11 1 0.735294 $w=1.7e-08 $l=1.25e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.2015 $Y=0.1975 $X2=0.216 $Y2=0.216
r7 41 11 0.147059 $w=1.7e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.1986 $Y=0.2025 $X2=0.2015 $Y2=0.1975
r8 14 3 0.231482 $w=5.4e-08 $l=1.25e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.3095 $Y=0.216 $X2=0.324 $Y2=0.216
r9 39 14 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.3066 $Y=0.216 $X2=0.3095 $Y2=0.216
r10 1 35 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.216 $Y=0.216 $X2=0.216 $Y2=0.234
r11 3 26 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.324 $Y=0.216 $X2=0.324 $Y2=0.234
r12 35 36 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.216
+ $Y=0.234 $X2=0.2295 $Y2=0.234
r13 32 33 0.524677 $w=1.3e-08 $l=2.2e-09 $layer=M1 $thickness=3.6e-08 $X=0.248
+ $Y=0.233 $X2=0.2502 $Y2=0.234
r14 32 31 1.69063 $w=1.3e-08 $l=7.3e-09 $layer=M1 $thickness=3.6e-08 $X=0.248
+ $Y=0.233 $X2=0.2407 $Y2=0.234
r15 31 36 2.62338 $w=1.3e-08 $l=1.12e-08 $layer=M1 $thickness=3.6e-08 $X=0.2407
+ $Y=0.234 $X2=0.2295 $Y2=0.234
r16 30 33 4.6055 $w=1.3e-08 $l=1.98e-08 $layer=M1 $thickness=3.6e-08 $X=0.27
+ $Y=0.234 $X2=0.2502 $Y2=0.234
r17 29 30 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.234 $X2=0.27 $Y2=0.234
r18 28 29 2.56509 $w=1.3e-08 $l=1.1e-08 $layer=M1 $thickness=3.6e-08 $X=0.308
+ $Y=0.234 $X2=0.297 $Y2=0.234
r19 26 27 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.324
+ $Y=0.234 $X2=0.3375 $Y2=0.234
r20 17 26 2.68168 $w=1.3e-08 $l=1.15e-08 $layer=M1 $thickness=3.6e-08 $X=0.3125
+ $Y=0.234 $X2=0.324 $Y2=0.234
r21 17 28 1.04935 $w=1.3e-08 $l=4.5e-09 $layer=M1 $thickness=3.6e-08 $X=0.3125
+ $Y=0.234 $X2=0.308 $Y2=0.234
r22 16 25 3.36447 $w=1.71023e-08 $l=2.15e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.351 $Y=0.234 $X2=0.351 $Y2=0.2125
r23 16 27 1.49895 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.351 $Y=0.234 $X2=0.3375 $Y2=0.234
r24 24 25 18.0722 $w=1.3e-08 $l=7.75e-08 $layer=M1 $thickness=3.6e-08 $X=0.351
+ $Y=0.135 $X2=0.351 $Y2=0.2125
r25 18 23 3.83327 $w=1.5093e-08 $l=2.15e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.351 $Y=0.0575 $X2=0.351 $Y2=0.036
r26 18 24 18.0722 $w=1.3e-08 $l=7.75e-08 $layer=M1 $thickness=3.6e-08 $X=0.351
+ $Y=0.0575 $X2=0.351 $Y2=0.135
r27 22 23 1.96775 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.3375 $Y=0.036 $X2=0.351 $Y2=0.036
r28 21 22 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.324
+ $Y=0.036 $X2=0.3375 $Y2=0.036
r29 15 21 2.68168 $w=1.3e-08 $l=1.15e-08 $layer=M1 $thickness=3.6e-08 $X=0.3125
+ $Y=0.036 $X2=0.324 $Y2=0.036
r30 2 21 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.324 $Y=0.0675 $X2=0.324
+ $Y2=0.036
r31 10 2 0.154321 $w=8.1e-08 $l=1.25e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.3095 $Y=0.0675 $X2=0.324 $Y2=0.0675
r32 20 10 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.3066 $Y=0.0675 $X2=0.3095 $Y2=0.0675
.ends

.subckt PM_OAI311xp33_ASAP7_75t_R%A3 vss 16 8 14 3
c1 1 vss 0.00692864f $X=0.081 $Y=0.135
c2 3 vss 0.142353f $X=0.081 $Y=0.0245
c3 4 vss 0.00112953f $X=0.027 $Y=0.135
c4 5 vss 0.0101381f $X=0.027 $Y=0.098
c5 6 vss 0.00975848f $X=0.027 $Y=0.19
c6 7 vss 0.00302017f $X=0.054 $Y=0.135
r1 4 7 5.11582 $w=1.46667e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.135 $X2=0.054 $Y2=0.135
r2 4 5 7.44771 $w=1.42162e-08 $l=3.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.135 $X2=0.027 $Y2=0.098
r3 4 6 11.6451 $w=1.38182e-08 $l=5.5e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.135 $X2=0.027 $Y2=0.19
r4 16 7 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.08
+ $Y=0.136 $X2=0.054 $Y2=0.135
r5 1 11 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.081 $Y=0.135
+ $X2=0.081 $Y2=0.135
r6 16 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.08 $Y=0.136 $X2=0.081 $Y2=0.135
r7 14 13 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.2025 $X2=0.081 $Y2=0.1595
r8 12 13 2.7211 $w=2.1e-08 $l=8e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.1515 $X2=0.081 $Y2=0.1595
r9 11 12 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.135 $X2=0.081 $Y2=0.1515
r10 10 11 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.1185 $X2=0.081 $Y2=0.135
r11 9 10 2.7211 $w=2.1e-08 $l=8e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.1105 $X2=0.081 $Y2=0.1185
r12 8 9 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.0675 $X2=0.081 $Y2=0.1105
r13 8 3 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.0675 $X2=0.081 $Y2=0.0245
.ends

.subckt PM_OAI311xp33_ASAP7_75t_R%B1 vss 11 5 9 3 4
c1 1 vss 0.0064051f $X=0.243 $Y=0.135
c2 3 vss 0.0943815f $X=0.243 $Y=0.0245
c3 4 vss 0.00659746f $X=0.243 $Y=0.098
r1 11 4 8.62802 $w=1.3e-08 $l=3.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.247
+ $Y=0.134 $X2=0.243 $Y2=0.098
r2 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.243 $Y=0.135
+ $X2=0.243 $Y2=0.135
r3 11 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.247 $Y=0.134 $X2=0.243 $Y2=0.135
r4 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.216 $X2=0.243 $Y2=0.1675
r5 7 8 11.2416 $w=2.06615e-08 $l=3.25e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.135 $X2=0.243 $Y2=0.1675
r6 6 7 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.116 $X2=0.243 $Y2=0.135
r7 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.0675 $X2=0.243 $Y2=0.116
r8 5 3 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.0675 $X2=0.243 $Y2=0.0245
.ends


* End of included file OAI311xp33_ASAP7_75t_R.pex.sp.pex



*
.subckt OAI311xp33_ASAP7_75t_CUSTOM_4_25_0_7 VSS VDD A3 A2 A1 B1 C1 Y
*
* VSS VSS
* VDD VDD
* A3 A3
* A2 A2
* A1 A1
* B1 B1
* C1 C1
* Y Y
*
*

M0 noxref_8 N_M0_g VSS VSS nmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.071 $Y=0.027
M1 VSS N_M1_g noxref_8 VSS nmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.125 $Y=0.027
M2 noxref_8 N_M2_g VSS VSS nmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.179 $Y=0.027
M3 noxref_10 N_M3_g noxref_8 VSS nmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.233
+ $Y=0.027
M4 N_M4_d N_M4_g noxref_10 VSS nmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.287
+ $Y=0.027
M5 noxref_11 N_M5_g VDD VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.071 $Y=0.162
M6 noxref_12 N_M6_g noxref_11 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.125
+ $Y=0.162
M7 N_M7_d N_M7_g noxref_12 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.179
+ $Y=0.162
M8 VDD N_M8_g N_M8_s VDD pmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.233 $Y=0.189
M9 N_M9_d N_M9_g VDD VDD pmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.287 $Y=0.189


* .include "OAI311xp33_ASAP7_75t_R.pex.sp.pxi"

* Start of included file OAI311xp33_ASAP7_75t_R.pex.sp.pxi
x_PM_OAI311xp33_ASAP7_75t_R%A2 vss A2 N_M1_g N_M6_g N_A2_3
+ PM_OAI311xp33_ASAP7_75t_R%A2
cc_1 A2 N_A3_3 0.0030004f $X=0.134 $Y=0.136
cc_2 N_A2_3 N_A3_3 0.00779634f $X=0.135 $Y=0.0245
x_PM_OAI311xp33_ASAP7_75t_R%A1 vss A1 N_M2_g N_M7_g N_A1_4 N_A1_3
+ PM_OAI311xp33_ASAP7_75t_R%A1
cc_3 N_A1_4 A2 0.00507872f $X=0.189 $Y=0.098
cc_4 N_A1_3 N_A2_3 0.0113164f $X=0.189 $Y=0.0245
x_PM_OAI311xp33_ASAP7_75t_R%C1 vss C1 N_M4_g N_M9_g N_C1_4 N_C1_3 N_C1_1
+ PM_OAI311xp33_ASAP7_75t_R%C1
cc_5 N_C1_4 N_B1_4 0.00475627f $X=0.297 $Y=0.098
cc_6 N_C1_3 N_B1_3 0.00915738f $X=0.297 $Y=0.0245
x_PM_OAI311xp33_ASAP7_75t_R%Y vss Y N_M4_d N_M9_d N_M7_d N_M8_s N_Y_13 N_Y_1
+ N_Y_11 N_Y_17 N_Y_10 N_Y_2 N_Y_14 N_Y_18 PM_OAI311xp33_ASAP7_75t_R%Y
cc_7 N_Y_13 N_A1_4 0.00129141f $X=0.2015 $Y=0.2245
cc_8 N_Y_1 N_A1_3 0.00139387f $X=0.216 $Y=0.216
cc_9 N_Y_11 N_A1_3 0.0093939f $X=0.2015 $Y=0.1975
cc_10 N_Y_13 N_A1_3 0.0347047f $X=0.2015 $Y=0.2245
cc_11 N_Y_11 N_B1_4 0.000998966f $X=0.2015 $Y=0.1975
cc_12 N_Y_1 N_B1_3 0.00121374f $X=0.216 $Y=0.216
cc_13 N_Y_1 N_B1_4 0.0019999f $X=0.216 $Y=0.216
cc_14 N_Y_13 N_B1_3 0.00484935f $X=0.2015 $Y=0.2245
cc_15 N_Y_11 N_B1_3 0.0311105f $X=0.2015 $Y=0.1975
cc_16 N_Y_17 N_C1_3 0.000969147f $X=0.3125 $Y=0.234
cc_17 N_Y_10 N_C1_1 0.00139195f $X=0.3095 $Y=0.0675
cc_18 N_Y_2 N_C1_3 0.00151414f $X=0.324 $Y=0.0675
cc_19 N_Y_14 N_C1_3 0.0102085f $X=0.3095 $Y=0.216
cc_20 N_Y_18 N_C1_4 0.00742862f $X=0.351 $Y=0.0575
cc_21 N_Y_10 N_C1_3 0.0500714f $X=0.3095 $Y=0.0675
x_PM_OAI311xp33_ASAP7_75t_R%A3 vss A3 N_M0_g N_M5_g N_A3_3
+ PM_OAI311xp33_ASAP7_75t_R%A3
x_PM_OAI311xp33_ASAP7_75t_R%B1 vss B1 N_M3_g N_M8_g N_B1_3 N_B1_4
+ PM_OAI311xp33_ASAP7_75t_R%B1
cc_22 N_B1_3 N_A1_3 0.00304622f $X=0.243 $Y=0.0245
cc_23 N_B1_4 N_A1_4 0.00615758f $X=0.243 $Y=0.098


* End of included file OAI311xp33_ASAP7_75t_R.pex.sp.pxi
.ends
